US05284847
7-Isopropylthieno-[2,3-b]pyrazine-2,3(1H,4H)-dione
A mixture of di-t-butyl 4-isopropylthiophene-2,3-dicarbamate (1.42 g, 3.98 mmol), diethyl oxalate (25 ml, 183 mmol) and glacial acetic acid (25 ml) was refluxed for 2 h. The reaction mixture was cooled on ice for 2 h and the precipitate was filtered off, washed twice with water and finally with ether. Yield 580 mg (69%) of the title compound. M.p.>250° C. 1H-NMR (DMSO-D6, δ) 1.15 (d, 6H), 3.1 (m, 1H), 6.75 (s, 1H), 11.9 (br.s, 2H). MS (70 eV): m/z 210 (100%, g), 195 (97), 182 (42), 167 (52), 154 (12), 139 (29), 122 (13), 97 (19).

reactant | di-t-butyl 4-isopropylthiophene-2,3-dicarbamate | 3.98 mmol, 1.42 g | C(C)(C)C=1C(=C(SC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C17H28N2O4S
reactant | diethyl oxalate | 183 mmol, 25 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-Isopropylthieno-[2,3-b]pyrazine-2,3(1H,4H)-dione | C(C)(C)C1=CSC=2NC(C(NC21)=O)=O | C9H10N2O2S
